US04062862
7.8 g of o-phenylallylbenzene was added to 120 ml of chloroform solution containing perbenzoic acid prepared from 25 g of benzoyl peroxide and the mixture was allowed to stand at about 5° C for 4 days. The resulting mixture was washed with sodium hydroxide solution, Mohr's salt solution, then water, and dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was distilled under reduced pressure to obtain a fraction having a boiling point of 145° to 155° C/3 mmHg, which was chromatographed on a silica gel, eluted with chloroform, and there was obtained 6.0 g (yield 71%) of o-penylallylbenzene oxide as an oily substance.

reactant | o-phenylallylbenzene | 7.8 g | C1(=CC=CC=C1)C=CCC1=CC=CC=C1 | C15H14
reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoyl peroxide | 25 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | o-penylallylbenzene oxide | 6.0 g, yield 71% | C1(=CC=CC=C1)C=CCC12C(C=CC=C1)O2 | C15H14O
